US06660759B1
A mixture of cis-4-hydroxy-N-benzyloxycarbonyl-D-proline 2-oxo-1,2-diphenylethyl ester (7.0 g) and AcONH4 (11.8 g) in AcOH was stirred at 120° C. for 1 hour. The reaction mixture was evaporated, and the residue was dissolved in EtOAc, washed with water, 3N NaOH solution, water and brine, dried (MgSO4), and evaporated in vacuo. The residue was purified by silica gal column chromatography (hexane-EtOAc, 1:1˜2:3 elution) to give first benzyl (2R, 4R)-4-acetoxy-2-(4,5-diphenyloxazol-2-yl)pyrrolidine-1-carboxylate (972.6 mg), then benzyl (2R, 4R)-2-(4,5-diphenyloxazol-2-yl)-4-hydroxypyrrolidine-1-carboxylate (5.12 g).

reactant | cis-4-hydroxy-N-benzyloxycarbonyl-D-proline 2-oxo-1,2-diphenylethyl ester | 7.0 g | O=C(C(C1=CC=CC=C1)OC([C@@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C27H25NO6
reactant | AcONH4 | 11.8 g | C(=O)(C)[O-].[NH4+]
solvent | AcOH | CC(=O)O | C2H4O2
product | benzyl (2R, 4R)-4-acetoxy-2-(4,5-diphenyloxazol-2-yl)pyrrolidine-1-carboxylate | 972.6 mg | C(C)(=O)O[C@@H]1C[C@@H](N(C1)C(=O)OCC1=CC=CC=C1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H26N2O5
